US08580762B2
Step 5: Synthesis of 2-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)acetic acid
A solution of methyl 2-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)acetate (270 mg, 0.453 mmol) in methanol (8.6 mL) was treated dropwise with a solution of sodium hydroxide (36 mg, 0.91 mmol) in water (0.9 mL, 50 mmol) and the mixture was heated at 50° C. After 17 h, HPLC indicated the reaction was complete. The reaction mixture was cooled to room temperature and treated with 0.91 mL 1.0N HCl to adjust the pH to ˜7. The solution was concentrated to remove the methanol and the resulting aqueous suspension was lyophilized to yield a white solid. The material was used as is in the next step, assuming a quantitative recovery: MS (ESI+) for C30H39N5O7 m/z 582.4 (M+H)+; MS (ESI−) for C30H39N5O7 m/z 580.4 (M−H)−; HPLC purity >95% (ret. time, 2.72 min).

reactant | methyl 2-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)acetate | 0.453 mmol, 270 mg | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3O[C@@H]([C@@H]2[C@H]3OC(O2)(C)C)CN(C2CC(C2)CC(=O)OC)C)C=CC(=C1)OC | C31H41N5O7
reactant | sodium hydroxide | 0.91 mmol, 36 mg | [OH-].[Na+]
reactant | water | 50 mmol, 0.9 mL | O | H2O
reactant | HCl | 1.0N, 0.91 mL | Cl | ClH
solvent | methanol | 8.6 mL | CO | CH4O
product | 2-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)acetic acid | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3O[C@@H]([C@@H]2[C@H]3OC(O2)(C)C)CN(C2CC(C2)CC(=O)O)C)C=CC(=C1)OC | C30H39N5O7
